US04683241
2,7-dipivaloyloxyfluorenone
2.1 g (0.01 mole) of 2,7-dihydroxyfluorenone and 2.5 g (0.025 mole) of pivaloyl chloride were warmed to 50° C. in 6 mls of pyridine in a drying tube attached for 2 hrs. The solvent was removed via rotary evaporator and H2O was added. The crystals were filtered and air dried. Recrystallized from ethanol; 3 g (79%); M.P.~174°-175° C.

reactant | 2,7-dihydroxyfluorenone | 0.01 mole, 2.1 g | OC=1C(C2=CC3=CC(=CC=C3C2=CC1)O)=O | C13H8O3
reactant | pivaloyl chloride | 0.025 mole, 2.5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 6 mls | N1=CC=CC=C1 | C5H5N
product | 2,7-dipivaloyloxyfluorenone | C(C(C)(C)C)(=O)OC=1C(C2=CC3=CC(=CC=C3C2=CC1)OC(C(C)(C)C)=O)=O | C23H24O5
